US05571835
Preparation of N-Chloroacetyl-2(S)-hydroxymethypyrrolidine
To a solution of 2(S)-hydroxymethylpyrrolidine (25.32 g, 0,250 mol) in CH2Cl2 (720 mL) under argon was added Et3N (38.0 mL, 0,273 mol). After cooling this mixture to -20° C., chloroacetyl chloride (20.0 mL, 0.251 mol) was added dropwise over 0.75 h maintaining the reaction temperature at -20°±3° C. The reaction was stirred at ambient temperature for 18 h and evaporated in vacuo. An impurity which precipitated during concentration was removed by filtration. The crude product was purified by chromatography (silica gel, 1:39 to 1:19 MeOH/CH2Cl2) to give the title compound as a yellow oil. 1H NMR (CDCl3, 400 MHz): δ 4.37 (dd, J=8,3 Hz, 1H), 4.22 (qd, J=7,3 Hz, 1H), 4.08 (s, 2H), 3.71 (td, J=8, 3 Hz, 1H), 3.68-3.50 (m, 3H), 2.14-1.86 (m, 3H), 1.72-1.62 (m, 1H).

reactant | 2(S)-hydroxymethylpyrrolidine | 0,250 mol, 25.32 g | OC[C@H]1NCCC1 | C5H11NO
reactant | Et3N | 0,273 mol, 38.0 mL | CCN(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.251 mol, 20.0 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | CH2Cl2 | 720 mL | C(Cl)Cl | CH2Cl2
product | N-Chloroacetyl-2(S)-hydroxymethypyrrolidine | ClCC(=O)N1[C@@H](CCC1)CO | C7H12ClNO2
